US05889012
Preparation of the precursor cis-4-isopropenylcyclohexanol
4.7 g (0.034 mol) of 4-isopropenylcyclohexanone dissolved in 35 ml of THF were added dropwise to 39 ml of a 1 molar solution at -78° C. of L-Selectride in THF. The mixture was subsequently stirred at -78° for 3 hours and then heated to room temperature, and 5 ml of H2O, 20 ml of ethanol, 15 ml of 6N NaOH and 17 ml of 35% strength H2O2 solution were added in succession. Water was added to the reaction solution, and extraction was carried out with methylene chloride. The combined methylene chloride phases are dried and concentrated. 37 g (78% of theory) of product remained as a colorless oil. The cis/trans mixture produced (>90% cis) was reacted further without additional purification.

reactant | 4-isopropenylcyclohexanone | 0.034 mol, 4.7 g | C(=C)(C)C1CCC(CC1)=O | C9H14O
reactant | L-Selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | NaOH | 6N, 15 ml | [OH-].[Na+]
reactant | H2O2 | OO | H2O2
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | H2O | 5 ml | O | H2O
product | cis-4-isopropenylcyclohexanol | C(=C)(C)[C@H]1CC[C@H](CC1)O | C9H16O
